US07645776B2
3-(2,4-Dioxo-imidazolidin-1-yl)-benzoic acid
12 mmol of ethyl-3-aminobenzoate were dissolved in 120 ml Dioxan. 1 eq of chloroacetyl isocyanate were added. The reaction mixture was stirred at rt for 1 h and then heated to 120° C. for an additional 2 h. The reaction was cooled to rt, 2 eq of DBU added and again stirred at rt overnight. The solvent was evaporated and the crude extracted from DCM. The crude material was dissolved in 20 ml MeOH and 4 ml of 4N NaOH were added. The reaction mixture was stirred at rt for 20 h. After evaporation of the organic layer the aqueous phase was acidified to pH=1 and the resulting white solid was filtered off and dried under vacuum. MS(ISO): 219.2 (M−H+)

reactant | ethyl-3-aminobenzoate | 12 mmol | C(C)OC(C1=CC(=CC=C1)N)=O | C9H11NO2
reactant | chloroacetyl isocyanate | 1 eq | ClCC(=O)N=C=O | C3H2ClNO2
reactant | DBU | 2 eq | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | Dioxan | 120 ml | O1CCOCC1 | C4H8O2
product | 3-(2,4-Dioxo-imidazolidin-1-yl)-benzoic acid | O=C1N(CC(N1)=O)C=1C=C(C(=O)O)C=CC1 | C10H8N2O4
